2114-03-11 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   None
   S: C/o nose bleed. No CP, SOB, palpitations.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-11**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 83 (77 - 126) bpm
   BP: 125/57(72) {101/50(63) - 125/64(76)} mmHg
   RR: 15 (8 - 19) insp/min
   SpO2: 96%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Height: 69 Inch
             Total In:
                                                                    190 mL
                                                                    208 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                     70 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    450 mL
   Urine:
                                                                    825 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -635 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Gen: WDWN older male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Nares with blood and small clots bilat, packed. OP clear.
   Neck: Supple with no JVD
   CV: RRR, 3/6 systolic ejection murmur.
   Chest: CTAB
   Abd: NABS. Soft, NTND.
   Ext: No edema. 2+ DP pulses. WWP.  L hip s/p surgical revision
   dressing clean, mild oozing.  Mildly tender to palpation.  LLE is
   neurovascularly intact.
   Labs / Radiology
   185 K/uL
   9.0 g/dL
   126 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.4 mEq/L
   17 mg/dL
   99 mEq/L
   136 mEq/L
   25.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2114-3-10**]  08:01 PM
                             [**2114-3-11**]  03:38 AM
   WBC
   10.7
   9.9
   Hct
   28.5
   25.3
   Plt
   194
   185
   Cr
   1.2
   1.1
   TropT
   0.49
   Glucose
   139
   126
   Other labs: PT / PTT / INR:16.8/87.2/1.5, CK / CKMB /
   Troponin-T:1098/100/0.49, Differential-Neuts:84.5 %, Lymph:10.8 %,
   Mono:4.0 %, Eos:0.4 %, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Patient is a 76 year old male with history of AS/AI, HTN s/p L hip
   revision on [**3-8**] who developed chest pain today found to have NSTEMI 48
   hrs after L hip revision ([**3-8**]), transferred to [**Hospital1 19**] for further
   workup.  Has remained chest pain free since admission.
   .
   #. CAD: Patient developed chest pain in peri-operative setting (48hrs
   out) and found to have positive cardiac markers.  Patient has known AS
   so MI possibly demand in this setting.  He was also noted to be anemic
   post-operatively.  Risk factors include hypertension.  Currently chest
   pain free.  EKG with LBBB which is old, difficult to assess.  Telemetry
   also demonstrated some NSVT since arrival.
   - Continue with heparin gtt which was started at OSH.
   - Now that he has been given plavix load, will stop integrillin.
   Restart if recurrent chest pain.
   - Continue beta blocker and titrate up as tolerated to goal HR 60-70s,
   TID dosing.  Also treat anxiety with ativan which may improve HR.
   - Aspirin, plavix daily
   - Continue to cycle cardiac enzymes.  CK peak last night at 1154.
   - Follow hct as patient is s/p hip surgery.  Slightly down today.
   - Monitor on telemetry in CCU
   - Cardiac catheterization on Monday or sooner if CP recurs, cardiac
   enzymes continue to trend up.
   .
   # Chest pain: Also on differential includes PE vs ACS which is
   described above.  Patient is tachycardic, but not really hypoxic.
   However clinical setting would work ie post op hip with sudden onset
   chest pain.
   - CT chest to rule out PE.
   - Continue heparin gtt
   - ACS work up as above.
   .
   # Nose bleed: Packed here but patient has bleeding noted posteriorly.
   - Consult ENT for proper nasal packing.  Saline spray.
   .
   #. Pump: EF 50% on last echocardiogram, appears euvolemic on exam with
   mild O2 requirement.
   - Repeat echocardiogram on Monday.
   .
   #. Rhythm: Normal sinus rhythm, one episode of NSVT since admission.
   - Continue beta blocker, titrate up as tolerated.
   - Monitor on telemetry
   .
   #. s/p L hip repair: Failed hip arthroplasty s/p revision on [**3-8**].
   Reportedly was doing well from that perspective.  Ambulated with PT
   today without difficulty.  Still with some pain with transferring.
   - Heparin gtt for DVT ppx
   - Pain control PRN
   - PT once patient is cleared from cardiac perspective.
   - Discuss with Ortho regarding appropriate post-operative care.
   - [**Hospital1 7**] hcts
   .
   #. FEN
   - Cardiac heart healthy diet
   - Monitor lytes and replete PRN
   .
   #. Access:  PIV x2
   .
   #. PPx:  heparin gtt, bowel regimen, regular diet.
   .
   #. Code: Full code
   .
   #. Dispo:  CCU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-3-10**] 06:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to non-ST elevation MI, hypoxia, aortic stenosis
   Above discussed extensively with patient.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/8/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2114-3-11**] 13:10 ------

2114-03-12 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -had nose bleed, seen by ENT, packed it and recommended nasal spray
   -CTA neg for PE but nodule was seen
   -NPO for cath in am
   -repeat hct stable
   -ortho got hip films, will staff in am, for now follow hct and NTD
   -transfusing 1 unit PRBC this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-12**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 82 (79 - 104) bpm
   BP: 111/52(66) {84/47(58) - 131/66(80)} mmHg
   RR: 15 (9 - 23) insp/min
   SpO2: 94%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Height: 69 Inch
             Total In:
                                                                  1,099 mL
                                                                     64 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    379 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                    125 mL
   Urine:
                                                                  2,275 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,176 mL
                                                                    -61 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General: no acute distress, lying in bed
   HEENT: NC, AT, no scleral icterus, supple neck
   CV: late peaking systolic murmur heard RUSB crescendo decrescendo with
   soft S2
   Pulm: CTA anteriorly
   Abd: + BS. NTND
   Peripheral Vascular: DP/PT 2+
   Skin:  Not assessed
   Neurologic: Alert, awake, following commands
   Labs / Radiology
   217 K/uL
   8.7 g/dL
   121 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.7 mEq/L
   19 mg/dL
   99 mEq/L
   135 mEq/L
   23.3 %
   10.3 K/uL
        [image002.jpg]
                             [**2114-3-10**]  08:01 PM
                             [**2114-3-11**]  03:38 AM
                             [**2114-3-11**]  06:36 PM
                             [**2114-3-12**]  03:13 AM
   WBC
   10.7
   9.9
   10.3
   Hct
   28.5
   25.3
   25.2
   23.3
   Plt
   194
   185
   217
   Cr
   1.2
   1.1
   1.1
   TropT
   0.49
   0.88
   Glucose
   139
   126
   121
   Other labs: PT / PTT / INR:15.5/56.1/1.4, CK / CKMB /
   Troponin-T:1098/82/0.88, Differential-Neuts:84.5 %, Lymph:10.8 %,
   Mono:4.0 %, Eos:0.4 %, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   76 year old male with history of AS/AI, HTN s/p L hip revision on [**3-8**]
   who developed chest pain today found to have NSTEMI 48 hrs after L hip
   revision ([**3-8**]), transferred to [**Hospital1 19**] and now in the cath lab.
   .
   #. CAD: Pt transferred to cardiology service with post-op MI in setting
   of increased exertion and demand. Etiology thought likely related to
   peri-operative setting, demand related to AS, and demand related to
   anemia with low post-op HCTs.
   -          cath lab today
   -          continue beta blocker, plavix, aspirin
   -          restart ACEI once returns from cath
    .
   2. Chest pain: Etiology is most likely ACS. Pulmonary embolism is
   unlikely given negative CTA. Will reassess after cath
   - Continue heparin gtt for now, will have received 48 hours at 8pm
   - ACS work up as above.
   .
   3. Nose bleed: Packed here but patient has bleeding noted posteriorly.
   - appreciate ENT recs
   - follow HCT [**Hospital1 7**]
   .
   4. Pump: EF 50% on last echocardiogram, appears euvolemic on exam with
   mild O2 requirement.
   - Repeat echocardiogram
   - maintain even
   .
   5. Rhythm: Normal sinus rhythm, one episode of NSVT since admission.
   - Continue beta blocker, titrate up as tolerated.
   - Monitor on telemetry
   .
   6. s/p L hip repair: Failed hip arthroplasty s/p revision on [**3-8**].
   Reportedly was doing well from that perspective.  Ambulated with PT
   today without difficulty.  Still with some pain with transferring.
   - Heparin gtt for DVT ppx then will change to Hep SC. Will need to
   discuss post op anticoag with ortho. ?needs lovenox
   - Pain control PRN
   - PT once patient is cleared from cardiac perspective.
   - Discuss with Ortho regarding appropriate post-operative care.
   - [**Hospital1 7**] hcts
   .
   #. FEN
   - Cardiac heart healthy diet
   - Monitor lytes and replete PRN
   #. Access:  PIV x2
   #. PPx:  heparin gtt then hep SC; ?needs lovenox, bowel regimen,
   regular diet.
   #. Code: Full code
   #. Dispo:  cath lab this morning
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-3-10**] 06:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute systolic and diastolic CHF, anterior STEMI,
   severe AS.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   date of service  3/9/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2114-3-13**] 07:46 ------

2114-03-13 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2114-3-12**]
   Cardiac cath:
   1. Three vessel coronary artery disease.
   2. Severe aortic stenosis (although [**Location (un) 342**] cannot be calculated with
   confidence given known aortic regurgitation).
   3. Severe pulmonary arterial hypertension.
   4. Severe left ventricular diastolic dysfunction.
   5. Procedure-related atrial fibrillation. Given severity of diastolic
   heart failure and aortic valve disease, recommendation is to pursue
   elective cardioversion in the CCU.
   6. Cardiac surgery consultation for suitability for AVR-CABG.
   .
   TTE:The left atrium is normal in size. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. There is moderate
   regional left ventricular systolic dysfunction with hypokinesis of the
   basal half of the inferolateral wall, distal half of the anteroseptal
   and anterior walls, and apex. The remaining segments contract well
   (LVEF= 35 %). Right ventricular chamber size and free wall motion are
   normal. The aortic valve leaflets are severely thickened/deformed.
   There is severe aortic valve stenosis (area <0.8cm2). Mild (1+) aortic
   regurgitation is seen. The mitral leaflets and supporting structures
   are mildly fibrotic. Mild (1+) mitral regurgitation is seen. The
   pulmonary artery systolic pressure could not be quantified. There is no
   pericardial effusion.
   IMPRESSION: Severe aortic stenosis. Mild aortic regurgitation. Mild
   symmetric left ventricular hypertrophy with regional left ventricular
   systolic dysfunction c/w multivessel CAD. Mild mitral regurgitation.
   EVENTS:
   Spontaneously converted to NSR after arrival to ICU.
   Ortho recs: Monitor for sciatica, foot drop to suggest nerve
   compression from hip hematoma. page ortho if any new deficits in
   dorsiflexion/plantarflexion
   Did not continue heparin gtt per dsicussion with fellow although nurses
   concerned that he is waiting for CABG off heparin. Completed about 40
   hours heparin
   Running about even I/O to negative
   Holding plavix for ? CABG
   CT [**Doctor First Name **] recs:PA and lateral CXR (ordered for [**3-13**]), T+S (has already),
   LFTS and HGbA1c (added on), Echo (done already), Carotid US (ordered),
   and R/O PNA
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2114-3-12**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-13**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 81 (72 - 108) bpm
   BP: 107/45(59) {99/40(56) - 122/65(78)} mmHg
   RR: 15 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,250 mL
                                                                    240 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    395 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,325 mL
                                                                    450 mL
   Urine:
                                                                  2,325 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,075 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.45/38/70/29/2
   Physical Examination
   General: no acute distress, lying in bed
   HEENT: NC, AT, no scleral icterus, supple neck
   CV: late peaking systolic murmur heard RUSB crescendo decrescendo with
   soft S2
   Pulm: CTAB
   Abd: + BS. NTND
   Peripheral Vascular: DP/PT 2+. 5/5 strength [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/L. No foot drop. Left
   hip hematoma with dsg C/D/I and surrounding ecchymoses
   Skin:  Not assessed
   Neurologic: Alert, awake, following commands
   Labs / Radiology
   255 K/uL
   9.3 g/dL
   115 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.2 mEq/L
   30 mg/dL
   100 mEq/L
   137 mEq/L
   25.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2114-3-10**]  08:01 PM
                             [**2114-3-11**]  03:38 AM
                             [**2114-3-11**]  06:36 PM
                             [**2114-3-12**]  03:13 AM
                             [**2114-3-12**]  01:00 PM
                             [**2114-3-12**]  05:50 PM
                             [**2114-3-12**]  05:52 PM
                             [**2114-3-13**]  03:40 AM
   WBC
   10.7
   9.9
   10.3
   9.9
   Hct
   28.5
   25.3
   25.2
   23.3
   26
   25.5
   25.5
   Plt
   194
   185
   217
   255
   Cr
   1.2
   1.1
   1.1
   1.2
   1.3
   TropT
   0.49
   0.88
   TCO2
   27
   Glucose
   139
   126
   121
   115
   Other labs: PT / PTT / INR:15.5/56.1/1.4, CK / CKMB /
   Troponin-T:1098/82/0.88, ALT / AST:25/82, Alk Phos / T Bili:48/3.6,
   Differential-Neuts:84.5 %, Lymph:10.8 %, Mono:4.0 %, Eos:0.4 %,
   Albumin:3.1 g/dL, LDH:456 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.8
   mg/dL
   No new cx data
   Assessment and Plan
   76 year old male with history of AS/AI, HTN s/p L hip revision on [**3-8**]
   who developed chest pain today found to have NSTEMI 48 hrs after L hip
   revision ([**3-8**]), transferred to [**Hospital1 19**] for PCI found to have severe AS
   and 3VD on cath.
   .
   #. CAD/Chest pain: Pt transferred to cardiology service with post-op MI
   in setting of increased exertion and demand. Etiology thought likely
   related to peri-operative setting, demand related to AS, and demand
   related to anemia with low post-op HCTs. Due to 3VD on cath, he was
   referred to cardiac surgery for CABG and AVR. Had CTA neg for PE
   -          F/U CT [**Doctor First Name 213**] recs
   -          continue beta blocker, aspirin; holding plavix for wash out
   -          restart ACEI today
   -          off heparin gtt but would restart if develops chest pain;
   completed about 40 hours of heparin gtt
   -           PA and lateral CXR, Carotid US, Type and screen, added on
   LFTs, UA
   .
   2. Nose bleed: Packed here but patient has bleeding noted posteriorly.
   HCt stable
   - appreciate ENT recs, F/U
   .
   4. Pump: EF 50% on last echocardiogram, 35% yesterday. appears
   euvolemic on exam with mild O2 requirement.
   - maintain even
   .
   5. Rhythm: Normal sinus rhythm since transfer. Had periprocedure afib
   now resolved
   - Continue beta blocker, titrate up as tolerated.
   - Monitor on telemetry
   .
   6. s/p L hip repair: Failed hip arthroplasty s/p revision on [**3-8**].
   Reportedly was doing well from that perspective.  Ambulated with PT
   today without difficulty.  Still with some pain with transferring. Per
   ortho, has small hematoma and will need to monitor for foot drop, signs
   of sciatic  nerve compression.
   - Hep SC for now for DVT ppx. Will need to discuss post op DVT ppx
   with ortho. ?needs lovenox
   - Pain control PRN
   - PT consult today
   - Discuss with Ortho regarding appropriate post-operative care.
   - monito rhematoma
   .
   #. FEN
   - Cardiac heart healthy diet
   - Monitor lytes and replete PRN
   #. Access:  PIV x2
   #. PPx:  hep SC; ?needs lovenox, bowel regimen, regular diet.
   #. Code: Full code
   #. Dispo:  to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2114-3-12**] 03:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: